US07256198B2
Step 4: 3-(6′-Chloro-2′-oxospiro[1,3-dioxane-2,3′indol]-1′(2′H)-yl)propanenitrile
A mixture of 6′-chlorospiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one (8.85 g, 36.9 mmol), and benzyltrimethylammonuim hydroxide (40% aqueous solution, 1.46 mL, 3.69 mmol, 0.1 mole % ) in anhydrous DMF was heated to 65° C. Acrylonitrile (4.86 mL, 73.9 mmol, 2 eq) was added drop-wise by syringe under a dry N2 atmosphere. After stirring 65 hr. the reaction was cooled to room temperature and poured into water (750 mL) and extracted with Et2O (3×). The combined organic extracts were dried over Na2SO4 and concentrated. The crude product was purified on Biotage KP silica gel using a step gradient of 100% CH2Cl2 followed by CH2Cl2/CH3OH/NH4OH (99.7/0.2/0.1) to give the title compound as a white solid (7.80 g, 73% yield). Anal: Calc'd for C14H13ClN2O3: C, 57.45; H, 4.48; N, 9.59. Found: C, 56.39; H, 4.35; N, 9.35. NMR (400 MHz, DMSO-d6): consistent. IR: consistent; MS: (EI+) m/z 292 [M+] 1 chlorine pattern observed. m.p.163-164° C.; HRMS: consistent.

reactant | 6′-chlorospiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one | 36.9 mmol, 8.85 g | ClC1=CC=C2C3(C(NC2=C1)=O)OCCCO3 | C11H10ClNO3
reactant | hydroxide | 3.69 mmol, 1.46 mL | [OH-]
reactant | Acrylonitrile | 73.9 mmol, 4.86 mL, 2 eq | C(C=C)#N | C3H3N
reactant | water | 750 mL | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(6′-Chloro-2′-oxospiro[1,3-dioxane-2,3′indol]-1′(2′H)-yl)propanenitrile | 7.80 g, 73% yield | ClC1=CC=C2C3(C(N(C2=C1)CCC#N)=O)OCCCO3 | C14H13ClN2O3
